US09301951B2
Intermediate 197b: (S)-tert-butyl 4-(2-(3-((4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)-N-methylbenzamido)ethyl)-1,4-diazepane-1-carboxylate
To a mixture of (S)—N1-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-oxoethyl)isophthalamide (0.162 mmol, 100 mg) in ethanol (1 mL) were added tert-butyl 1,4-diazepane-1-carboxylate (0.324 mmol, 65 mg) and HOAc (0.324 mmol, 19.4 mg). The mixture was stirred at room temperature for 20 minutes, and then sodium cyanoborohydride (0.81 mmol, 51 mg) was added. The mixture was stirred for an additional 1 h, diluted with ethyl acetate, washed with sat. aqueous NaHCO3 and brine, dried, concentrated and purified by column to give a product (70 mg, 54%).

reactant | (S)—N1-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-oxoethyl)isophthalamide | 0.162 mmol, 100 mg | C(C)N(C1=CC(=C(C=C1)NC(C1=CC(C(=O)N(CC=O)C)=CC=C1)=O)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C37H39N5O4
reactant | tert-butyl 1,4-diazepane-1-carboxylate | 0.324 mmol, 65 mg | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | HOAc | 0.324 mmol, 19.4 mg | CC(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.81 mmol, 51 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-tert-butyl 4-(2-(3-((4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)-N-methylbenzamido)ethyl)-1,4-diazepane-1-carboxylate | 70 mg, 54% | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)N(C)CCN2CCN(CCC2)C(=O)OC(C)(C)C)C=CC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C47H59N7O5
